US05270309
Treatment of methyl 5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate (0.61 g) with sodium hydroxide (0.42 g), as described in Example 1c, gave 5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (0.34 g), m.p. 272°-273° C., δ (360 MHz, NAOD) 1.22 (3H, t, CH3), 3.41 (2H, q, CH2), 6.65 (1H, s. 3-H), 7.18 (1H, d, 6-H), 7.54 (1H, t, 7-H), 7.68 (1H, d, 8-H), 11.94 (1H, s, NH), (Found: C, 65.97; H, 4.86; N, 6.72%, C12H11NO3 requires C, 66.35; H, 5.10; N, 6.45%).

reactant | methyl 5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate | 0.61 g | C(C)C1=C2C(C=C(NC2=CC=C1)C(=O)OC)=O | C13H13NO3
reactant | sodium hydroxide | 0.42 g | [OH-].[Na+]
product | 5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 0.34 g | C(C)C1=C2C(C=C(NC2=CC=C1)C(=O)O)=O | C12H11NO3
